US05360800
4-(Hydroxymethyl)-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide
Sodium borohydride (139 mg) was added to a stirred solution of 4-formyl-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide (450 mg) in absolute ethanol (5 ml) under nitrogen. After 3 h the mixture was poured into water (30 ml) and extracted with dichloromethane (3×15 ml). The combined, dried organic extracts were evaporated to give a solid (425 mg) which was triturated with ether (2×10 ml) to give the title compound (350 mg), m.p. 86°-88°.

reactant | Sodium borohydride | 139 mg | [BH4-].[Na+]
reactant | 4-formyl-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide | 450 mg | C(=O)C=1N=CN(C1CCC)S(=O)(=O)N(C)C | C9H15N3O3S
reactant | water | 30 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(Hydroxymethyl)-N,N-dimethyl-5-propyl-1H-imidazole-1-sulphonamide | 425 mg | OCC=1N=CN(C1CCC)S(=O)(=O)N(C)C | C9H17N3O3S
